US05792783
Ethyl 4-methylpyrrol-3-carboxylate.
A solution of 11.86 g (0.1 moles) of ethyl crotonate and 19.50 g (0.1 moles) of p-toluenesulfonylmethylisocyanide in 500 mL of a 2:1 ether/dimethylsulfoxide was added dropwise into a suspension of 6.8 g of sodium hydride (60% mineral oil dispension, 0.17 moles) in ether at room temperature. Upon completion of addition the reaction mixture was stirred for 30 min and diluted with 400 mL of water. The aqueous layer was extracted with 3×100 mL of ether. The combined ether extracts were passed through a column of alumina eluting with dichloromethane. The organic solvent was evaporated and the resulting residue was solidified on standing. The solid was washed with hexane and dried at 40° C. in vacuum oven overnight to yield 12.38 g (80%) of the title compound.

reactant | ethyl crotonate | 0.1 moles, 11.86 g | C(\C=C\C)(=O)OCC | C6H10O2
reactant | p-toluenesulfonylmethylisocyanide | 0.1 moles, 19.50 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | sodium hydride | 0.17 moles, 6.8 g | [H-].[Na+]
solvent | ether dimethylsulfoxide | 500 mL | CCOCC.CS(=O)C
solvent | ether | CCOCC | C4H10O
solvent | water | 400 mL | O | H2O
product | Ethyl 4-methylpyrrol-3-carboxylate | 12.38 g, 80% | CC=1C(=CNC1)C(=O)OCC | C8H11NO2
